US06586423B2
2-(4-Hydroxymethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile (10-2)
2-[4-(tert-Butyl-dimethyl-silanyloxymethyl)-pyridin-2-ylamino]-thiazole-5-carbonitrile (1.30 g, 3.75 mmol) was dissolved in 10 mL anh THF. Hydrogen-fluoride (Aldrich, 5.0 mL) was added and the reaction was stirred for 20 min. The bulk of the solvent was removed in vacuo and the resulting residue was diluted with half-saturated NaHCO3 (aq). A precipitate formed which was filtered and washed with water to afford the titled compound. 1H NMR (DMSO-d6) δ12.23 (bs, 1H), 8.30 (d, 1H, J=5.3 Hz), 8.26 (s, 1H), 7.15 (s, 1H), 6.99 (d, 1H, J=5.3 Hz), 5.49 (t, 1H, J=5.7 Hz) 4.54 (d, 2H, J=5.7 Hz).

reactant | 2-[4-(tert-Butyl-dimethyl-silanyloxymethyl)-pyridin-2-ylamino]-thiazole-5-carbonitrile | 3.75 mmol, 1.30 g | C(C)(C)(C)[SiH2]OC(C1=CC(=NC=C1)NC=1SC(=CN1)C#N)(C)C | C16H22N4OSSi
reactant | Hydrogen-fluoride | 5.0 mL | F | FH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-Hydroxymethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile | OCC1=CC(=NC=C1)NC=1SC(=CN1)C#N | C10H8N4OS
